US05408009
5.8 g (0.035 mol) of 4-(2-hydroxyethoxy)benzaldehyde, 6 ml of triethylamine, a small amount (200 mg or less) of hydroquinone and 80 ml of acetonitrile were put in a three-neck 200 ml-flask equipped with a thermometer and a stirrer and cooled to 0° C. To this mixture was dropwise added a solution comprising 3.5 g (0.039 mol) of acryloyl chloride and 8 ml of acetonitrile at 5° C. or lower. After the addition, the reaction system was stirred at 0° C. for 2 hours. The reaction mixture was poured into water containing ice and extracted with ethyl acetate. The resulting extract was dried with anhydrous sodium sulfate, and ethyl acetate was removed therefrom by distillation. The residue was subjected to silica gel column chromatography (using an eluent of ethyl acetate/n-hexane of 1/1 by volume) to obtain the intended 4-(2-acryloyloxyethoxy)benzaldehyde as an oily product. The yield of the product was 4.1 g (53.2%).

reactant | 4-(2-hydroxyethoxy)benzaldehyde | 0.035 mol, 5.8 g | OCCOC1=CC=C(C=O)C=C1 | C9H10O3
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | hydroquinone | 200 mg or less | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | acryloyl chloride | 0.039 mol, 3.5 g | C(C=C)(=O)Cl | C3H3ClO
solvent | water | O | H2O
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 4-(2-acryloyloxyethoxy)benzaldehyde | C(C=C)(=O)OCCOC1=CC=C(C=O)C=C1 | C12H12O4
